US07273875B2
{4-[8-(3-cyano-phenyl)-[1.7]naphthyridin-6-yl]-cyclohexyloxy}-acetic acid
Trifluoroacetic acid (TFA) (2 ml) is added to a solution of {4-[8-(3-cyano-phenyl)-[1,7]naphthyridin-6-yl]-cyclohexyloxy}-acetic acid tert-butyl ester (182 mg, 0.41 mmol) in CH2Cl2 (2 ml) at 0° C. The solution is stirred at room temperature for 1 hour, concentrated, and azeotroped with toluene (×3). Purification by chromatography on silica gel, eluting with 7% methanol in CH2Cl2 gives the product. MS (ES+) [M+H]+ 388.04

reactant | Trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | {4-[8-(3-cyano-phenyl)-[1,7]naphthyridin-6-yl]-cyclohexyloxy}-acetic acid tert-butyl ester | 0.41 mmol, 182 mg | C(C)(C)(C)OC(COC1CCC(CC1)C=1C=C2C=CC=NC2=C(N1)C1=CC(=CC=C1)C#N)=O | C27H29N3O3
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | {4-[8-(3-cyano-phenyl)-[1.7]naphthyridin-6-yl]-cyclohexyloxy}-acetic acid | C(#N)C=1C=C(C=CC1)C=1N=C(C=C2C=CC=NC12)C1CCC(CC1)OCC(=O)O | C23H21N3O3
